US04107307
6-Phenyl-imidazo[1,5-d]-as-triazin-4(3H)-one
A 7.76 gm. portion of 3-(2-phenyl-4-imidazolylmethylene)carbazic acid ethyl ester in 50 ml. of diphenyl ether is reacted as described in Example 70 giving the desired product m.p. 245°-248° C.

reactant | 3-(2-phenyl-4-imidazolylmethylene)carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1)C1=CC=CC=C1)=O | C13H14N4O2
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6-Phenyl-imidazo[1,5-d]-as-triazin-4(3H)-one | C1(=CC=CC=C1)C1=NC=C2N1C(NN=C2)=O | C11H8N4O
